US06809097B1
A solution of 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)-1,4-dihydroquinolin-4-one (950 mg, 3.1 mmol) in thionyl chloride (25 ml) containing DMF (10 drops) was heated at reflux for 1.5 hours. After cooling, toluene was added and the volatiles were removed by evaporation. The residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinoline hydrochloride (1.23 g, 100%).

reactant | 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)-1,4-dihydroquinolin-4-one | 3.1 mmol, 950 mg | COC=1C=C2C(C=CNC2=CC1OCCCN1CCCC1)=O | C17H22N2O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 10 drops | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinoline hydrochloride | 1.23 g, 100% | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | InChI=1S/C17H21ClN2O2.ClH/c1-21-16-11-13-14(18)5-6-19-15(13)12-17(16)22-10-4-9-20-7-2-3-8-20;/h5-6,11-12H,2-4,7-10H2,1H3;1H
